US07309703B2
3-(4-Chloro-3-methyl-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (5.33 g, 13.2 mmol) and 1-(2-cyanophenyl)-piperazine (2.97 g, 15.86 mmol) were partially dissolved in EtOH (50 mL) and triethylamine (2 mL). The reaction mixture was heated to 80° C. for 18 h. The mixture was concentrated and purified by column chromatography (silica, 20% acetone/CH2Cl2) to give 3-(4-chloro-3-methyl-phenyl)-1-{3-[4-(2-cyano-phenyl)-piperazin-1-yl]-2-hydroxy-propyl}-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (6.51 g, 83%) as a yellow solid. TLC (silica, 20% acetone/CH2Cl2): Rf=0.35. MS (electrospray): m/z 591.3 (591.3, calculated for C32H39ClN6O3, [M+H]+).

reactant | 3-(4-Chloro-3-methyl-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 13.2 mmol, 5.33 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N=C2C2=CC(=C(C=C2)Cl)C)CC2OC2 | C21H26ClN3O3
reactant | 1-(2-cyanophenyl)-piperazine | 15.86 mmol, 2.97 g | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 3-(4-chloro-3-methyl-phenyl)-1-{3-[4-(2-cyano-phenyl)-piperazin-1-yl]-2-hydroxy-propyl}-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 6.51 g, 83% | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N=C2C2=CC(=C(C=C2)Cl)C)CC(CN2CCN(CC2)C2=C(C=CC=C2)C#N)O | C32H39ClN6O3
